US04631282
Trans 6-cyano-3,4-dihydro-2,2-dimethyl-4-(N-carbethoxymethyleneamino)-2H-benzo[b]pyran-3-ol (D1)
A mixture of 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-benzo[b]pyran (5.0 g, the preparation of which was described in U.K. patent No. 1,511,187), glycine ethyl ester hydrochloride (2.59 g) and sodium hydroxide (0.75 g) in ethanol (100 mls) was refluxed for 7h. Filtration, evaporation, and chromatography gave the title compound (1.5 g). Recrystaisation of a small portion from ethyl acetate-pentane gave crystals of m.p. 98°-100° C.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-benzo[b]pyran | C(#N)C1=CC2=C(OC(C3C2O3)(C)C)C=C1 | C12H11NO2
reactant | glycine ethyl ester hydrochloride | 2.59 g | Cl.C(C)OC(CN)=O
reactant | sodium hydroxide | 0.75 g | [OH-].[Na+]
solvent | ethanol | 100 mls | C(C)O | C2H6O
product | Trans 6-cyano-3,4-dihydro-2,2-dimethyl-4-(N-carbethoxymethyleneamino)-2H-benzo[b]pyran-3-ol | 1.5 g | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N=CC(=O)OCC)O)(C)C)C=C1 | C16H18N2O4
